US04454145
2,2,9,9-Tetramethyl-1,10-decanediol dinicotinate
106.2 Grams (0.6 mole) of nicotinoyl chloride hydrochloride in 300 ml of anhydrous pyridine were reacted with 23.0 grams (0.1 mole) of 2,2,9,9-tetramethyl-1,10-decanediol, according to the procedure described in Example 1. 28.8 Grams of product, recrystallized from ethanol, were obtained, having m.p. 68°-69° C. Yield: 65,5% of theoretical.

reactant | nicotinoyl chloride hydrochloride | 0.6 mole | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 2,2,9,9-tetramethyl-1,10-decanediol | 0.1 mole, 23.0 grams | CC(CO)(CCCCCCC(CO)(C)C)C | C14H30O2
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 2,2,9,9-Tetramethyl-1,10-decanediol dinicotinate | Yield: 65,5% | C(C1=CN=CC=C1)(=O)OCC(CCCCCCC(COC(C1=CN=CC=C1)=O)(C)C)(C)C | C26H36N2O4
